US05123954
Synthesis of N-(2-butenyl)-N-(4-chloro-3-isopropylphenyl)amine:
2.8 g of anhydrous potassium carbonate and 2.0 g of -chloro-2-butene were added to 3.2 g of 4-chloro-3-isopropylaniline in 15 ml of N,N-dimethylformamide, followed by stirring at 70°-90° C. for 1 hour. After potassium carbonate was removed by filtration, 100 ml of water were added, and extraction was then carried out with toluene. After drying over anhydrous sodium sulfate, the reaction solution was concentrated by means of an evaporator, and silica gel chromatography was then done to obtain 1.5 g of the desired compound.

reactant | potassium carbonate | 2.8 g | C([O-])([O-])=O.[K+].[K+]
reactant | chloro-2-butene | ClCC=CC | C4H7Cl
reactant | 4-chloro-3-isopropylaniline | 3.2 g | ClC1=C(C=C(N)C=C1)C(C)C | C9H12ClN
solvent | N,N-dimethylformamide | 15 ml | CN(C=O)C | C3H7NO
product | N-(2-butenyl)-N-(4-chloro-3-isopropylphenyl)amine | 1.5 g | C(C=CC)NC1=CC(=C(C=C1)Cl)C(C)C | C13H18ClN
